US05026856
7-(4-methoxy-2-isoindolinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
136 mg of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 224 mg of 4-methoxyisoindoline, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 2 to produce 132 mg of the target compound.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 136 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 4-methoxyisoindoline | 224 mg | COC1=C2CNCC2=CC=C1 | C9H11NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-methoxy-2-isoindolinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 132 mg | COC1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C22H18F2N2O4
